US05643878
a) 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-cyanophenylmethyl)-dihydrofuran-2-(3H)-one
Analogously to Example 21 D) 1)c), 2.0 g (6.55 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one [Example 21 D) 1)b)] dissolved in 40 ml of THF are deprotonated at -75° C. with 13.1 ml of lithium bis(trimethylsilyl)amide 1M in THF and alkylated (60 min -60° C.) with 1.4 g (7.2 mmol) of 3-bromomethylbenzonitrile (Fluka; Buchs/Switzerland). Column chromatography (SiO2, hexane/ethyl acetate 2:1) and stirring in hexane yields the pure title compound: TLC Rf (D)=0.41; tRet (I)=16.1 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 6.55 mmol, 2.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | 1M, 13.1 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-bromomethylbenzonitrile | 7.2 mmol, 1.4 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-cyanophenylmethyl)-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)C#N | C25H28N2O4
